* Schematics Netlist *



D_D2         0 $N_0001 D1N4148 
D_D1         $N_0001 $N_0002 D1N4148 
V_V1         $N_0002 0 0V
V_V2         $N_0003 0  
+SIN 0 10 1000 0 0 0
R_R1         $N_0003 $N_0001  1k  
