* Schematics Netlist *



X_U1A         $N_0001 $N_0002 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0003 $N_0002 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_Rpu         $N_0002 $N_0004  2k2  
V_Vcc         $N_0004 0 5V
X_U3A         $N_0005 $N_0006 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0007 $N_0006 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_Vc         $N_0001 0 5V
V_Vd         $N_0003 0 0V
V_Va         $N_0005 0 5V
V_Vb         $N_0007 0 0V
