* Schematics Netlist *



R_R3         $N_0002 $N_0001  1k  
M_M1         $N_0002 $N_0003 0 0 MbreakN           
V_V1         $N_0001 0 10V
R_R1         $N_0003 $N_0001  6k  
R_R2         0 $N_0003  4k  
