* Schematics Netlist *



R_R2         $N_0002 $N_0001  100  
V_V1         $N_0003 0 15
R_R3         $N_0002 $N_0001  220  
R_R1         $N_0003 $N_0002  220  
R_R4         $N_0001 0  100  
