* Schematics Netlist *



X_U3A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         $N_0003 $N_0001 $N_0004 $G_DPWR $G_DGND 74125 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0005 $N_0002 $N_0004 $G_DPWR $G_DGND 74125 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_S         $N_0001 0 0V
V_Vb         $N_0005 0 0V
V_Va         $N_0003 0 5V
